US05344843
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (0.724 g) in dimethylformamide (10 mL) under argon was treated with 55% sodium hydride (0.175 g), stirred for 15 minutes and treated with the mesylate of 2-(2-fiuorophenoxy)ethanol (1.17 g). The mixture was heated at 60° C. overnight and worked up as in Example 20. The dichloromethane extract was evaporated and the residue was purified by HPLC (dichloromethane-hexane; 4:1) and the resulting solids were crystallized from dichloromethane-diethyl ether to give 0.8 g of 4-[[2-(2-fiuorophenoxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester, mp 112°-113° C.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 0.724 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.175 g | [H-].[Na+]
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | 2-(2-fiuorophenoxy)ethanol | 1.17 g | FC1=C(OCCO)C=CC=C1 | C8H9FO2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-[[2-(2-fiuorophenoxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.8 g | COC(C(C1=CC=C(C=C1)OCCOC1=C(C=CC=C1)F)=O)=O | C17H15FO5
